US08877742B2
Methyl 2-(6-bromo-5-fluoro-1H-indol-1-yl)acetate
6-Bromo-5-fluoro-1H-indole (10 g, 46.7 mmol) was dissolved in DMF (100 mL) and cooled to 0° C. in an ice bath before the addition of sodium hydride, 60% dispersion in mineral oil (3.74 g, 93 mmol) and methyl 2-bromoacetate (8.59 mL, 93 mmol). The ice bath was removed and the reaction mixture was stirred at RT for 1 hour. The reaction mixture was cooled with an ice bath once again then quenched with water (50 mL). The aqueous layer was extracted with DCM (3×200 mL). The organics were combined, passed through a hydrophobic frit and concentrated. The residue was purified by column chromatography on silica gel, eluting with a gradient of 0-40% ethyl acetate in cyclohexane to afford the title compound (10.209 g). LCMS (A): m/z (M+H)+ 286/288, C11H9BrFNO2 requires 285/287 (acidic).

reactant | 6-Bromo-5-fluoro-1H-indole | 46.7 mmol, 10 g | BrC1=C(C=C2C=CNC2=C1)F | C8H5BrFN
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-bromoacetate | 93 mmol, 8.59 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(6-bromo-5-fluoro-1H-indol-1-yl)acetate | 10.209 g | BrC1=C(C=C2C=CN(C2=C1)CC(=O)OC)F | C11H9BrFNO2
